US08748418B2
A solution of 3-chloro-6,7-dihydro-5H-[1]pyrindine 1-oxide (2.07 g, 12.2 mmol) in acetic acid anhydride (62.2 ml, 659 mmol) was stirred at 110° C. for 20 hours. For the workup, the solvent was removed at reduced pressure and the residue quenched with saturated aqueous solution of sodium hydrogen carbonate. The aqueous phase was extracted with dichloromethane, the resulting organic layers combined and dried over sodium sulfate. After evaporation of the solvent, the residue was purified by flash chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 70:30 as the eluent. The acetic acid 3-chloro-6,7-dihydro-5H-[1]pyrindin-7-yl ester was obtained as a red liquid (1.57 g, 61%); (calculated) C10H10ClNO2 [211.65]; (found) [M+H]+=212.

reactant | 3-chloro-6,7-dihydro-5H-[1]pyrindine 1-oxide | 12.2 mmol, 2.07 g | ClC=1C=[N+](C=2CCCC2C1)[O-] | C8H8ClNO
reactant | acetic acid anhydride | 659 mmol, 62.2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | acetic acid 3-chloro-6,7-dihydro-5H-[1]pyrindin-7-yl ester | ClC=1C=NC=2C(CCC2C1)OC(C)=O | C10H10ClNO2
